US07476764B2
Step 2: Preparation of 3-bromo-5-(phenylamino)benzoic acid.
A solution of palladium(II) acetate (1.1 mg, 0.005 mmol) and xantphos (8.9 mg, 0.015 mmol) in toluene (8 ml) was stirred at room temperature for 5 min in a sealable tube purged with nitrogen, methyl 3-bromo-5-iodobenzoate (340 mg, 1.0 mmol) and aniline (111.8 mg, 1.2 mmol) were added and let stir for 5 more min, Sodium tert-butoxide (134.6 mg, 1.4 mmol) was then added and the mixture was stirred at room temperature for 5 min before heated up to 80° C. for 3 h. The reaction mixture was cooled down to RT and ether (containing 1% triethylamine) was added, passed through a celite column, dried over sodium sulfate and concentrated under vacuum to give the crude product which was used directly in the next reaction without further purification: HPLC retention time: 2.123 min (method A). MS (ESI) (M+H)+ 292.07.

reactant | xantphos | 0.015 mmol, 8.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | methyl 3-bromo-5-iodobenzoate | 1.0 mmol, 340 mg | BrC=1C=C(C(=O)OC)C=C(C1)I | C8H6BrIO2
reactant | aniline | 1.2 mmol, 111.8 mg | NC1=CC=CC=C1 | C6H7N
reactant | Sodium tert-butoxide | 1.4 mmol, 134.6 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.005 mmol, 1.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ether | CCOCC | C4H10O
product | 3-bromo-5-(phenylamino)benzoic acid | BrC=1C=C(C(=O)O)C=C(C1)NC1=CC=CC=C1 | C13H10BrNO2
